US07419997B2
N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-pyridinecarboxamide was prepared from 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine and picolinoyl chloride in a similar manner as described in Example 14 to give an off-white solid (62% yield). 1H-NMR (DMSO-d6): δ 10.93 (s, 1H), 8.78 (d, 1H), 8.61 (m, 1H), 8.12 (m, 1H), 8.02 (m, 1H), 7.61 (m, 1H), 7.43 (m, 1H), 7.26 (d, 1H), 7.01 (dd, 1H), 5.34 (m, 1H), 2.64 (m, 2H), 2.00 (m, 3H), 1.82 (m, 1H); MS m/z 348 (M+Na).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
reactant | picolinoyl chloride | N1=C(C=CC=C1)C(=O)Cl | C6H4ClNO
product | N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-pyridinecarboxamide | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC(=O)C1=NC=CC=C1 | C18H16ClN3O
